US06472372B1
3-(2-Pyridinyl)benzaldehyde
2M aq. Na2CO3 (5 mL) and a solution of 3-formylphenylboronic acid (1.14 g, 7.60 mmol) in methanol (5 mL) were added to a solution of 2-bromopyridine (1.00 g, 6.33 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.22 g, 0.19 mmol) in toluene (10 mL) and the mixture was heated to reflux for 18 h. The cooled reaction mixture was diluted with dichloromethane, washed with sat. aq. NaHCO3 and brine, dried (MgSO4), and concentrated. Purification by chromatography (SiO2, 4:1 hexane/ethyl acetate) yielded 1.03 g (89%) of the title compound. MS 184 (M+H)+.

reactant | Na2CO3 | 2M, 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-formylphenylboronic acid | 7.60 mmol, 1.14 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | 2-bromopyridine | 6.33 mmol, 1.00 g | BrC1=NC=CC=C1 | C5H4BrN
solvent | methanol | 5 mL | CO | CH4O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.19 mmol, 0.22 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-Pyridinyl)benzaldehyde | 1.03 g, 89% | N1=C(C=CC=C1)C=1C=C(C=O)C=CC1 | C12H9NO
